US05958942
i) Synthesis of 4,5-dihydro-4-[2,2-dimethyl-3-(trifluoromethanesulfonamido)propan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a solution of 0.51 g (5.0 mmol) of 1,3-diamino-2,2-dimethylpropane and 1.29 g (10.0 mmol) of N,N-diisopropylethylamine in 30 ml of acetonitrile was added a solution of 1.74 g (5.0 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine in 15 ml of acetonitrile. The mixture was stirred for two hours. To the reaction mixture was added 2.68 g (7.50 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for one hour at room temperature. The solvent was distilled off. To the residue was added chloroform, which was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue was purified by a column chromatography (eluent: ethyl acetate) to give 1.70 g of the desired compound (84.5%, pale yellow solid).

reactant | 1,3-diamino-2,2-dimethylpropane | 5.0 mmol, 0.51 g | NCC(CN)(C)C | C5H14N2
reactant | N,N-diisopropylethylamine | 10.0 mmol, 1.29 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine | 5.0 mmol, 1.74 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
reactant | N-phenyltrifluoromethanesulfonimide | 7.50 mmol, 2.68 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4,5-dihydro-4-[2,2-dimethyl-3-(trifluoromethanesulfonamido)propan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 1.70 g, 84.5% | CC(CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(CNS(=O)(=O)C(F)(F)F)C | C15H15F3N4O4S
